US05072027
In the same reactor as used in Example 1, 760 kg (5 kmoles) of tricyclo[5.2.1.02,6 ]deca-8-yl alcohol and 1500 kg (15 kmoles) of methyl methacrylate were placed and well mixed with stirring. The water content of the mixture was 2500 ppm. To the mixture, 550 g of hydroquinone monomethyl ether and 3 kg of anhydrous lithium hydroxide were added to carry out the reaction. While refluxing methyl methacrylate through the distillation column, by-produced methanol was removed by distillation. The reaction was continued until almost no methanol was produced (about 7 hours). After removing unreacted methyl methacrylate by distillation under reduced pressure, the reaction mixture was cooled and filtered under pressure (2 kg/cm2) using a filter paper (pore size 0.1 mm, area 5 m2) placing thereon 10 kg of diatomaceous earth to yield 975 kg of tricyclo[5.2.1.02,6 ]deca-8-yl methacrylate with the filtrating time of 5.5 hours.

reactant | deca-8-yl alcohol | CCCCCCCC(CC)O | C10H22O
reactant | methyl methacrylate | 15 kmoles, 1500 kg | C(C(=C)C)(=O)OC | C5H8O2
reactant | hydroquinone monomethyl ether | 550 g | COC1=CC=C(O)C=C1 | C7H8O2
reactant | lithium hydroxide | 3 kg | [OH-].[Li+]
solvent | water | O | H2O
product | deca-8-yl methacrylate | C(C(=C)C)(=O)OC(CCCCCCC)CC | C14H26O2
